US08703795B2
b) 3-Methyl-5-phenoxy-thiophene-2-carboxylic acid
3-Methyl-5-phenoxy-thiophene-2-carbaldehyde, (example 22.a, 5.68 g, 25.9 mmol) was added to 26 mL of ethanol. To the mixture were added 21 mL of 5 N NaOH(aq) and silver nitrate (8.81 g, 52 mmol), and the resultant mixture was stirred for 19 hours at room temperature. The mixture was filtered through a pad of celite, washing the solid with ca. 50-100 mL portions of 1 N NaOH solution three times. The basic solution was washed with ethyl ether, then acidified with concentrated H2SO4, and extracted twice with ethyl acetate. The organic fractions were dried over anhydrous sodium sulfate and concentrated under high vacuum to 5.7 g of a yellow solid: MS: (−) m/z 232.9 (M−1)

reactant | 3-Methyl-5-phenoxy-thiophene-2-carbaldehyde | CC1=C(SC(=C1)OC1=CC=CC=C1)C=O | C12H10O2S
reactant | NaOH | 5 N, 21 mL | [OH-].[Na+]
catalyst | silver nitrate | 52 mmol, 8.81 g | [N+](=O)([O-])[O-].[Ag+]
solvent | ethanol | 26 mL | C(C)O | C2H6O
product | 3-Methyl-5-phenoxy-thiophene-2-carboxylic acid | CC1=C(SC(=C1)OC1=CC=CC=C1)C(=O)O | C12H10O3S
